US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(1,2,3-thiadiazol-4-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (35 mg, 0.21 mmol) and 1,2,3-thiadiazole-4-carboxaldehyde (33mg, 0.287 mmol) similar to Example 3 and isolated as a white solid (47 mg, 80%). 1H NMR (CDCl3): 9.95 (s, 1H), 8.85 (s, 1H), 7.70 (brs, 1H), 6.16 (ddd, J=8.1, 5.1, 2.7 Hz, 2H), 4.27 (t, J=8.7 Hz, 1H), 3.06 (s, 1H), 2.96 (s, 1H), 1.92 (ddd, J=7.6, 7.0, 2.4 Hz, 1H), 1.67 (m, 1H), 1.51-1.40 (m, 2H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.21 mmol, 35 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 1,2,3-thiadiazole-4-carboxaldehyde | 0.287 mmol, 33mg | S1N=NC(=C1)C=O | C3H2N2OS
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(1,2,3-thiadiazol-4-ylmethylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC=2N=NSC2)=S | C11H13N5S2
